US08426437B2
180 mg (0.55 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid is added to a solution of 139 mg (1.1 mmol) of sodium sulfite and 78 mg (0.55 mmol) of dibasic sodium phosphate dissolved in 2.5 mL of water. The solution is heated at 60° C. for 20 hours then a solution of 132 mg (0.55) of 2,6-dichlorobenzyl bromide in 2.5 mL of dimethylformamide is added. Stirring is continued at 60° C. for 4 hours then the solution is filtered. The solid is triturated in hot methanol then filtered again to give 88 mg (35%) of 8-(2,6-dichlorophenylmethanesulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.55 mmol, 180 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | sodium sulfite | 1.1 mmol, 139 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium phosphate | 0.55 mmol, 78 mg | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | 2,6-dichlorobenzyl bromide | 132 mg | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
solvent | water | 2.5 mL | O | H2O
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 8-(2,6-dichlorophenylmethanesulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 88 mg, 35% | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C18H12Cl2N2O3S.C3H6O2/c19-14-2-1-3-15(20)13(14)9-26(24,25)10-4-5-16-12(8-10)11-6-7-21-17(11)18(23)22-16;1-2-3(4)5/h1-8,21H,9H2,(H,22,23);2H2,1H3,(H,4,5)/p-1
